US07312241B2
(4-Methoxy-3-nitro-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone was prepared analogously to 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile using (4-methoxy-3-nitro-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol (3.9 g, 11.6 mmol) and pyridinium chlorochromate (3.7 g, 17.4 mmol). The crude product was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 95:5) to afford (4-methoxy-3-nitro-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone (3.4 g, 89%) as an orange solid: 1H NMR (CDCl3) δ 8.28 (d, J=2 Hz, 1H), 8.06-8.02 (dd, J=3, 8.7 Hz, 1H), 7.41 (d, J=1 Hz, 1H), 7.31-7.26 (dd, J=2, 8.4 Hz, 1H), 7.21 (d, J=8 Hz, 1H), 6.94 (d, J=8 Hz, 1H), 4.21-4.12 (q, J=7 Hz, 2H), 4.05 (s, 3H), 3.96 (s, 3H), 1.50 (t, J=6 Hz, 3H).

reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OC | C18H18N2O3
reactant | (4-methoxy-3-nitro-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol | 11.6 mmol, 3.9 g | COC1=C(C=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OCC)[N+](=O)[O-] | C17H19NO6
reactant | pyridinium chlorochromate | 17.4 mmol, 3.7 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | (4-methoxy-3-nitro-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone | 3.4 g, 89% | COC1=C(C=C(C=C1)C(=O)C1=CC(=C(C=C1)OC)OCC)[N+](=O)[O-] | C17H17NO6
